US05504244
Adipic acid monomethyl ester (50 g; 0.31 mole) is converted to the acid chloride with thionyl chloride (50 g) in the manner described in Example 1. This product is reacted with nonylbenzene (400 ml) and aluminum chloride (80 g; 0.6 mole) and the product purified in a manner analogous to that described in Example 1 to provide methyl 5-(4-n-nonylbenzoyl)pentanoate (35.2 g). This ester (35 g) is hydrolysed with sodium hydroxide in aqueous ethanol as in Example 1 to give, on recrystallization from aqueous ethanol, 5-(4-n-nonylbenzoyl)pentanoic acid (24 g) as colorless crystals, m.p. 29°-31° C.

reactant | Adipic acid monomethyl ester | 0.31 mole, 50 g | COC(CCCCC(=O)O)=O | C7H12O4
reactant | thionyl chloride | 50 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 0.6 mole, 80 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | nonylbenzene | 400 ml | C(CCCCCCCC)C1=CC=CC=C1 | C15H24
product | methyl 5-(4-n-nonylbenzoyl)pentanoate | 35.2 g | C(CCCCCCCC)C1=CC=C(C(=O)CCCCC(=O)OC)C=C1 | C22H34O3
